US08003785B2
A mixture of 0.05 g (0.15 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-144), 0.05 g (0.17 mmole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.04 g (0.22 mmole) of p-toluenesulfonic acid monohydrate and 4.0 mL of 2-propanol was heated at 160 degrees for 2 hours in a microwave reactor. The cooled reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane). The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with methanol-dichloromethane (gradient, 0:100-25:75) to give 0.051 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-165).

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.15 mmole, 0.05 g | ClC=1N=CC2=C(N(CC(C(N2CCC)=O)(F)F)C2CCCC2)N1 | C15H19ClF2N4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.17 mmole, 0.05 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.22 mmole, 0.04 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.051 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CCC)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C29H39F2N7O3
